US04389524
A solution of 0.050 g of 7β-phenylacetylamino-cepham-3-one-4ξ-carboxylic acid diphenylmethyl ester and 0.020 g of 1-methyl-3-(4-methylphenyl)-triazene in 5 ml of benzene is boiled for 2 hours under reflux. After cooling, the mixture is evaporated under reduced pressure and the residue is purified by thin layer chromatography (silica gel; 1×20 cm; system: toluene/ethyl acetate, 3:1). The zone (Rf~0.18) which is visible under ultraviolet light (λ=254μ) is eluted with acetone and 3-methoxy-7β-phenylacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester is obtained, ultraviolet absorption spectrum (in ethanol): λmax =264μ (ε=6,300); infrared absorption spectrum (in methylene chloride): Characteristic bands at 2.94μ, 5.63μ, 5.83μ, 5.94μ, 6.26μ and 6.68μ.

reactant | 7β-phenylacetylamino-cepham-3-one-4ξ-carboxylic acid diphenylmethyl ester | 0.050 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C28H24N2O5S
reactant | 1-methyl-3-(4-methylphenyl)-triazene | 0.020 g | CN=NNC1=CC=C(C=C1)C | C8H11N3
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 3-methoxy-7β-phenylacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)OC | C29H26N2O5S
